US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid adamantan-1-ylmethyl ester
The title compound was prepared from 5-{(2R)-2-[(2R)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-adamantan-1-ylmethyl ester according to the procedure of Example 22 as an off-white solid; 1H NMR (DMSO) δ 1.03-1.09 (m, 3H), 1.44 (s, 6H), 1.45-1.64 (m, 8H), 1.86 (s, 4H), 3.02-3.15 (m, 1H), 3.25-3.55 (m, 2H), 3.70-3.80 (m, 2H), 4.58 (s, 2H), 5.06-5.10 (m, 1H), 6.52-6.65 (m, 1H), 6.79-6.88 (m, 2H), 7.32-7.49 (m, 3H), 7.49 (s, 1H); IR (KBr) 3384 cm-1 (--OH), 1758 cm-1 (C=O), 1651 cm-1 (C=O); MS (ES) m/z 570.3 (MH+); [α]D25 -29° (c, 1.0, CHCl3). Anal. Calcd. for C31H36ClNO7 : C, 65.31; H, 6.37; N, 2.46; Cl, 6.39. Found: C, 64.19; H, 6.20; N, 2.33; Cl, 6.33.

reactant | 5-{(2R)-2-[(2R)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-adamantan-1-ylmethyl ester | C12(CC3CC(CC(C1)C3)C2)COC(=O)C2(OC3=C(O2)C=CC(=C3)C[C@@H](C)NC[C@H](O)C3=CC(=CC=C3)Cl)C(=O)OCC32CC1CC(CC(C3)C1)C2 | C42H52ClNO7
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid adamantan-1-ylmethyl ester | C12(CC3CC(CC(C1)C3)C2)COC(=O)C2(OC3=C(O2)C=CC(=C3)C[C@@H](C)NC[C@H](O)C3=CC(=CC=C3)Cl)C(=O)O | C31H36ClNO7
